US09079866B2
4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-[(1R)-2,2,2-trifluoro-1-methylethyl]biphenyl-2-carboxamide
The title compound was prepared using methods analogous to those described in Step C of Example 504 using 4′-(2-aminopyrazin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid and (R)-1,1,1-trifluoropropan-2-amine. MS (ESI): mass calcd. for C20H16F4N4O, 404.13; m/z found, 405.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.91 (d, J=8.8, 1H) 8.34 (s, 1H), 8.01 (d, J=1.2, 1H), 7.90-7.80 (m, 1H), 7.58-7.40 (m, 4H), 7.29-7.18 (m, 2H), 6.69 (s, 2H), 4.68-4.56 (m, 1H), 1.16 (d, J=7.0, 3H).

reactant | 4′-(2-aminopyrazin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid | NC1=NC=C(N=C1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)O)F | C17H12FN3O2
reactant | (R)-1,1,1-trifluoropropan-2-amine | FC([C@@H](C)N)(F)F | C3H6F3N
product | 4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-[(1R)-2,2,2-trifluoro-1-methylethyl]biphenyl-2-carboxamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)N[C@@H](C(F)(F)F)C)F | C20H16F4N4O
